US04689339
cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid
1,4-Dimethyl-indene-2-carboxylic acid (35.5 g) is hydrogenated in ethanol-water (700 ml-70 ml) over 10% palladium on carbon at ambient temperature. After filtration ethanol is evaporated. Water is added and the precipitated cis-2,3-dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid is filrated. Yield 33.3 g, 93% M.p. 132°-135° C.

reactant | 1,4-Dimethyl-indene-2-carboxylic acid | 35.5 g | CC1C(=CC2=C(C=CC=C12)C)C(=O)O | C12H12O2
solvent | ethanol water | 700 ml-70 ml | C(C)O.O
catalyst | palladium on carbon | [Pd] | Pd
product | cis-2,3-Dihydro-1,4-dimethyl-1H-indene-2-carboxylic acid | C[C@H]1[C@H](CC2=C(C=CC=C12)C)C(=O)O | C12H14O2
